US05770594
4'-Trifluoromethyl-2,2-dimethylpropionanilide
To a stirred solution of 4-trifluoromethylaniline (25 g, 0.155 mol) and pyridine (62 ml, 0.775 mol) in dichloromethane (300 ml) cooled to 0° C. under nitrogen was added dropwise pivaloyl chloride (19 ml, 0.155 mol). The reaction mixture was stirred at room temperature for 3.5 hr, then diluted with dichloromethane (300 ml). The resulting solution was washed sequentially with 1N aqueous hydrochloric acid solution (2×), saturated aqueous sodium bicarbonate solution, water and brine, dried (anhydrous sodium sulfate)and concentrated in vacuo to yield the title compound as a white solid (37 g, 97% yield).

reactant | 4-trifluoromethylaniline | 0.155 mol, 25 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | pyridine | 0.775 mol, 62 ml | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 0.155 mol, 19 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4'-Trifluoromethyl-2,2-dimethylpropionanilide | 37 g, 97% yield | FC(C1=CC=C(NC(C(C)(C)C)=O)C=C1)(F)F | C12H14F3NO
